US08975267B2
Methyl 4-(4-methoxy-4-oxobutyl)-1H-pyrrole-3-carboxylate
To a 1 M solution of LiN(TMS)2 in THF (5.9 mL, 5.9 mmol) cooled at −78° C. under argon was added a solution of TOSMIC (1.15 g, 5.9 mmol) in THF (15 mL) dropwise. After 40 min at −78° C. a solution of dimethyl (2E)-hept-2-enedioate (1.1 g, 5.9 mmol) in THF (15 mL) at −78° C. was added slowly. The solution was stirred for 10 min, then the cold bath was removed and the reaction was allowed to warm at room temperature. THF was evaporated and the residue partioned between H2O (200 mL) and DCM (200 mL). Aqueous layer was extracted with DCM and the combined organic layers anidrified on Na2SO4, filtered and concentrated to give a residue which was chromatographed on silica gel (eluant: AcOEt/hexane 3/7) to afford 633 mg (yield: 40%) of the title compound as white solid.

reactant | LiN(TMS)2 | [Li]N([Si](C)(C)C)[Si](C)(C)C
reactant | TOSMIC | 5.9 mmol, 1.15 g | CC1=CC=C(C=C1)S(=O)(=O)C[N+]#[C-] | C9H9NO2S
reactant | dimethyl (2E)-hept-2-enedioate | 5.9 mmol, 1.1 g | C(\C=C\CCCC(=O)OC)(=O)OC | C9H14O4
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 5.9 mmol, 5.9 mL | C1CCOC1 | C4H8O
product | Methyl 4-(4-methoxy-4-oxobutyl)-1H-pyrrole-3-carboxylate | 633 mg, yield: 40% | COC(CCCC=1C(=CNC1)C(=O)OC)=O | C11H15NO4
